US07842803B2
a) {5-[(dimethylamino)methyl]-2-thienyl}boronic acid
To a suspension of 5-formyl-2-thiopheneboronic acid (500 mg, 3.2 mmol) in DCE (30 mL) was added dimethylamine hydrochloride (520 mg, 6.3 mmol) followed by triethylamine (0.9 mL, 6.5 mmol). The reaction mixture was stirred for 10 min before sodium triacetoxyborohydride (1.36 g, 6.3 mmol) was added in one portion. After the reaction mixture was stirred at room temperature for 5 h, it was quenched with 30 mL of MeOH, stirred briefly, then concentrated under vacuum. Introduction of a CH2Cl2/Et2O mixture to this residue revealed a solid, which was filtered and washed with Et2O. The resulting organic filtrate was concentrated to a viscous oil, which was used without further purification.

reactant | 5-formyl-2-thiopheneboronic acid | 3.2 mmol, 500 mg | C(=O)C1=CC=C(S1)B(O)O | C5H5BO3S
reactant | dimethylamine hydrochloride | 6.3 mmol, 520 mg | Cl.CNC
reactant | triethylamine | 6.5 mmol, 0.9 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 6.3 mmol, 1.36 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 30 mL | ClCCCl | C2H4Cl2
product | {5-[(dimethylamino)methyl]-2-thienyl}boronic acid | CN(C)CC1=CC=C(S1)B(O)O | C7H12BNO2S
